US07763639B2
1-ETHYL-4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE
Preparation according to preparation 6: 4-[2-fluoro-3-(2-methyl-1,3-dioxolan-2-yl)phenyl]pyridine (0.95 g, 3.66 mmol), 1-iodoethane (4 ml), ethanol (40 ml), sodium borohydride (1.0 g, 29.3 mmol). Yield: 0.88 g. MS m/z (rel. intensity, 70 eV) 291 (M+, bp), 276 (94), 219 (29), 110 (46), 87 (29).

reactant | 4-[2-fluoro-3-(2-methyl-1,3-dioxolan-2-yl)phenyl]pyridine | 3.66 mmol, 0.95 g | FC1=C(C=CC=C1C1(OCCO1)C)C1=CC=NC=C1 | C15H14FNO2
reactant | 1-iodoethane | 4 ml | ICC | C2H5I
reactant | sodium borohydride | 29.3 mmol, 1.0 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-ETHYL-4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)C1(OCCO1)C)F | C17H22FNO2
